US05990336
Chlorosulfonic acid is added to the pyridine solution to form a reaction mixture. Preferably, the chlorosulfonic acid is added dropwise while maintaining the cooled temperature. About 1 mole of chlorosulfonic acid per mole of coumaric acid may be used. A slight excess is acceptable. Due to the reaction's exothermic nature, the reaction mixture is preferably stirred at the cooled temperature, e.g., about 0° C., for a time sufficient to allow the p-coumaric acid and the chlorosulfonic acid to react and form zosteric acid. Preferably, the reaction mixture is stirred for about 2 to about 4 hours at the low temperature, more preferably about 2.5 to about 3 hours.

reactant | Chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | chlorosulfonic acid | 1 mole | ClS(=O)(=O)O | ClHO3S
reactant | coumaric acid | C1=CC(=CC=C1/C=C/C(=O)O)O | C9H8O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | zosteric acid | C1=CC(=CC=C1/C=C/C(=O)O)OS(=O)(=O)O | C9H8O6S
